US05612340
2 g (5.0 mmol)of N-[3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl]-4-(2-chloro-4-pyridyl)-2-pyrimidineamine are stirred for 44 h at 100° in 30 ml of 3-amino-1-propanol. After concentration by evaporation and chromatography (methylene chloride:methanol:conc. ammonia solution=95:5:1), N-[3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl]-4-[2-(3-hydroxy-propyl-amino)-4-pyridyl]-2-pyrimidineamine is obtained; m.p. 141°-145°, MS(FAB): 438 (M+ +H), Rf =0.28 (methylene chloride:methanol:conc. ammonia solution=95:5:1).

reactant | N-[3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl]-4-(2-chloro-4-pyridyl)-2-pyrimidineamine | 5.0 mmol, 2 g | FC(C(F)F)(OC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)Cl)F | C17H11ClF4N4O
solvent | 3-amino-1-propanol | 30 ml | NCCCO | C3H9NO
product | N-[3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl]-4-[2-(3-hydroxy-propyl-amino)-4-pyridyl]-2-pyrimidineamine | FC(C(F)F)(OC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)NCCCO)F | C20H19F4N5O2
